US06100257
Then, 18.5 g of 4-chloro-2-fluorobenzyl chloride was dissolved in a mixed solvent consisting of 130 ml of ethanol and 30 ml of water, to which 5.3 g of sodium cyanide was added, and the mixture was heated under reflux for 2 hours. After completion of the reaction, the reaction mixture was allowed to stand for cooling to room temperature, poured into water, and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried, and concentrated. The residue was subjected to silica gel column chromatography, which afforded 15.1 g of 4-chloro-2-fluorophenylacetonitrile.

reactant | 4-chloro-2-fluorobenzyl chloride | 18.5 g | ClC1=CC(=C(CCl)C=C1)F | C7H5Cl2F
reactant | ethanol | 130 ml | C(C)O | C2H6O
reactant | sodium cyanide | 5.3 g | [C-]#N.[Na+]
solvent | water | O | H2O
solvent | water | 30 ml | O | H2O
product | 4-chloro-2-fluorophenylacetonitrile | 15.1 g | ClC1=CC(=C(C=C1)CC#N)F | C8H5ClFN
